* C:\Users\Zac\Documents\Uni\4th Year\ECEN405\DClassAmp\SpiceSims\FullBridge.asc
XM1 N010 P001 0 irf540n
V1 12v 0 12
XM3 N003 P002 N010 irf540n
R3 P001 N004 10
R4 P002 N004 10
V2 N003 0 20
R5 0 N010 4
C1 N002 N001 100µ
R6 12v Vref 10k
R7 Vref 0 10k
R8 N001 N006 1k
R9 N006 N005 100k
R10 N002 N007 8.2k
R11 N005 P003 100m
R12 P003 N007 10k
XU3 N007 Vref 12v 0 N005 AD795
XU1 Vref N001 12v 0 N002 AD795
V4 N008 0 SINE(6 3 10)
XU2 0 N002 N008 0 NC_01 NC_02 N009 12v LT1011
R13 12v N009 4
C2 N004 N009 10µ
R14 N004 0 1
.INCLUDE C:\Program Files\LTC\LTspiceXVII\lib\sub\irf540n.sub
.tran 50
.lib ADI1.lib
.lib LTC1.lib
.backanno
.end
